US09422279B2
To a solution of tert-butyl 4-(bromomethyl)-5-(1-isopropyl-1H-pyrazol-5-yl)-3,6-dihydropyridine-1(2H)-carboxylate (18 mg, 0.05 mmol) and 5-hydroxy-2-methoxyisonicotinaldehyde (10 mg, 0.06 mmol) in DMF (1 mL) was added K2CO3 (14 mg, 0.1 mmol). After stirred at room temperature for 1 h, it was diluted with water and EtOAc, organic layer was separated, and the aqueous layer was extracted with EtOAc, organic layer was combined, washed with brine, dried and concentrated to give crude product, which was purified by column (Hexanes/EtOAc=2:1) to give tert-butyl 4-(((4-formyl-6-methoxypyridin-3-yl)oxy)methyl)-3-(1-isopropyl-1H-pyrazol-5-yl)-5,6-dihydropyridine-1(2H)-carboxylate (7.2 mg). 1H NMR (400 MHz, CDCl3) (ppm) 10.39 (s, 1H), 7.79 (s, 1H), 7.56 (d, J=1.6 Hz, 1H), 7.05 (s, 1H), 6.11 (d, J=1.6 Hz, 1H), 4.40 (s, 2H), 4.38 (m, 1H), 4.01 (s, 2H), 3.88 (s, 3H), 3.66 (bs, 2H), 2.46 (bs, 2H), 1.48 (s, 9H), 1.43 (d, 6.4 Hz, 6H). MS (ESI) m/z 457.3 [M+H]+.

reactant | tert-butyl 4-(bromomethyl)-5-(1-isopropyl-1H-pyrazol-5-yl)-3,6-dihydropyridine-1(2H)-carboxylate | 0.05 mmol, 18 mg | BrCC=1CCN(CC1C1=CC=NN1C(C)C)C(=O)OC(C)(C)C | C17H26BrN3O2
reactant | 5-hydroxy-2-methoxyisonicotinaldehyde | 0.06 mmol, 10 mg | OC1=CN=C(C=C1C=O)OC | C7H7NO3
reactant | K2CO3 | 0.1 mmol, 14 mg | C(=O)([O-])[O-].[K+].[K+]
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | tert-butyl 4-(((4-formyl-6-methoxypyridin-3-yl)oxy)methyl)-3-(1-isopropyl-1H-pyrazol-5-yl)-5,6-dihydropyridine-1(2H)-carboxylate | 7.2 mg | C(=O)C1=C(C=NC(=C1)OC)OCC1=C(CN(CC1)C(=O)OC(C)(C)C)C1=CC=NN1C(C)C | C24H32N4O5
